US04388317
A mixture of 4-dimethylaminomethylbenzaldehyde (32.64 g), monoethylmalonate (29.07 g), pyridine (100 ml) and piperidine (2 ml) were heated under reflux with stirring for 5 hr. The pyridine was evaporated at reduced pressure, and the oily residue was extracted with diethyl ether. The combined ether extracts were washed with water and dried over magnesium sulphate. The ether was evaporated at reduced pressure to yield ethyl 4-(dimethylaminomethyl)cinnamate as a light straw coloured oil (46.57 g).

reactant | 4-dimethylaminomethylbenzaldehyde | 32.64 g | CN(C)CC1=CC=C(C=O)C=C1 | C10H13NO
reactant | monoethylmalonate | 29.07 g | C(C)OC(CC(=O)[O-])=O
reactant | piperidine | 2 ml | N1CCCCC1 | C5H11N
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | ethyl 4-(dimethylaminomethyl)cinnamate | CN(C)CC1=CC=C(C=CC(=O)OCC)C=C1 | C14H19NO2
